US08278324B2
{2-[2-Methyl-3-(methyloxy)phenyl]ethyl}amine
To lithium borohydride (2M in THF; 2.0 ml; 4.0 mmol) (cloudy) at room temperature was added dropwise over 0.5 min chlorotrimethylsilane (1.02 ml; 8.00 mmol). A precipitate was formed and after ca. 3 min, 2-methyl-1-(methyloxy)-3-[(E)-2-nitroethenyl]benzene (Preparation 9, 193 mg; 1.0 mmol) in THF (4 ml) was added dropwise via syringe over 5 min, making sure that the temperature remained at ca. 25° C. (using a water cold bath). The solution was stirred at room temperature overnight. The mixture was cooled with an ice bath, methanol was added slowly, and the solvent removed in vacuo. The residue was partitioned between 25% aqueous sodium hydroxide and dichloromethane. The aqueous phase was separated and extracted three times with dichloromethane and the combined organic layers evaporated. Purification of the residue by solid phase extraction (SCX column), eluting with methanol followed by 2N ammonia in methanol, followed by evaporation of the ammonia containing fraction gave the title compound (80 mg).

reactant | lithium borohydride | 4.0 mmol, 2M, 2.0 ml | [BH4-].[Li+]
reactant | chlorotrimethylsilane | 8.00 mmol, 1.02 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | 2-methyl-1-(methyloxy)-3-[(E)-2-nitroethenyl]benzene | 1.0 mmol, 193 mg | CC1=C(C=CC=C1\C=C\[N+](=O)[O-])OC | C10H11NO3
reactant | methanol | CO | CH4O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | {2-[2-Methyl-3-(methyloxy)phenyl]ethyl}amine | 80 mg | CC1=C(C=CC=C1OC)CCN | C10H15NO
